### PR TITLE
[Merged by Bors] - chore(Topology/Order/LeftRight): use `to_dual`

### PR DESCRIPTION
**Pull request by vihdzp**
This overlaps with #35635, but the overlap is small (and that PR still needs some work, so I'd rather get this out of the way first).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/LeftRight.lean [hunk 1]
```diff
@@ -35,35 +35,26 @@ section Preorder
...
+@[to_dual exists_gt]
 theorem Filter.Eventually.exists_lt {a : α} [NeBot (𝓝[<] a)] {p : α → Prop}
     (h : ∀ᶠ x in 𝓝 a, p x) : ∃ b < a, p b :=
   ((frequently_lt_nhds a).and_eventually h).exists
 
-theorem Filter.Eventually.exists_gt {a : α} [NeBot (𝓝[>] a)] {p : α → Prop}
-    (h : ∀ᶠ x in 𝓝 a, p x) : ∃ b > a, p b :=
-  ((frequently_gt_nhds a).and_eventually h).exists
-
+@[to_dual nhdsWithin_Iic_neBot]
```
Comment (JovanGerb) [inline Mathlib/Topology/Order/LeftRight.lean]: Would it be reasonable to add an entry in the abbreviations dictionary to turn `NeTop` into `NeBot`? That would help with the translation here. But I guess that it may be a bad thing in other situations.

File: Mathlib/Topology/Order/LeftRight.lean [hunk 2]
```diff
@@ -84,54 +75,57 @@ section PartialOrder
...
 section TopologicalSpace
 
 variable {α β : Type*} [TopologicalSpace α] [LinearOrder α] [TopologicalSpace β] {s : Set α}
 
+@[to_dual]
 theorem nhdsLE_sup_nhdsGE (a : α) : 𝓝[≤] a ⊔ 𝓝[≥] a = 𝓝 a := by
   rw [← nhdsWithin_union, Iic_union_Ici, nhdsWithin_univ]
 
+@[to_dual]
 theorem nhdsWithinLE_sup_nhdsWithinGE (a : α) : 𝓝[s ∩ Iic a] a ⊔ 𝓝[s ∩ Ici a] a = 𝓝[s] a := by
```
Comment (JovanGerb) [inline Mathlib/Topology/Order/LeftRight.lean]: The translated name here (`nhdsWithinLE_inf_nhdsWithinGE`) is wrong in two ways. It didn't swap the LE and GE, and the `sup` was turned into an `inf`, but the `⊔` did not actually get changed in the type.

File: Mathlib/Topology/Order/LeftRight.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Topology/Order/LeftRight.lean]: We don't have a `NeTop` class! We only seem to care about filters that are trivial in one direction, it seems.

File: Mathlib/Topology/Order/LeftRight.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Topology/Order/LeftRight.lean]: You're right, most of the names here were wrong... I've gone ahead and fixed them manually.

File: Mathlib/Tactic/Translate/ToDual.lean [hunk 3]
```diff
@@ -227,6 +227,10 @@ def abbreviationDict : Std.HashMap String String := .ofList [
   ("predColimit", "PredLimit"),
   ("codirectedOrder", "DirectedOrder"),
   ("directedOrder", "CodirectedOrder"),
+  ("nhdsLT", "NhdsGT"),
+  ("nhdsGT", "NhdsLT"),
+  ("nhdsLE", "NhdsGE"),
+  ("nhdsGE", "NhdsLE"),
```
Comment (JovanGerb) [inline Mathlib/Tactic/Translate/ToDual.lean:233]: These abbreviations are now not anymore used in this PR, but presumably it is good to have them anyways

File: Mathlib/Topology/Order/LeftRight.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Topology/Order/LeftRight.lean]: What I meant is that the name `NeBot` gets turned into `NeTop` automatically, and to fix this, we can tell the translation to turn `NeTop` back into `NeBot`.

**Review by JovanGerb — APPROVED** [review]
Thanks!

maintainer merge
